US07407963B2
3,4-dihydro-6-(4-methyl-1-piperazinyl)-3-(4-piperidinyl)-2(1H)-quinazolinone
2 mL of trifluoroacetic acid were added to the ice-cooled solution of 1.1 g (2.561 mmol) of 3,4-dihydro-3-[1-(1,1-dimethylethoxycarbonyl)-4-piperidinyl]-6-(4-methyl-1-piperazinyl)-2(1H)-quinazolinone in 20 mL of methylene chloride. The reaction mixture was stirred for 15 hours at ambient temperature and for 5 hours at 40° C. and then evaporated down in vacuo. The residue remaining was taken up in 5 mL of water, the solution formed was saturated with potassium carbonate and extracted exhaustively with dichloromethane. The combined extracts were evaporated down in vacuo. The residue obtained was purified by column chromatography on silica gel using dichloromethane/methanol 9/1 (v/v) to start with, then dichloromethane/methanol/concentrated ammonia 70/30/3 (v/v/v) as eluant. The appropriate fractions were evaporated down in vacuo, the residue remaining (0.5 g; 59% of theoretical) was used in the next step without further purification.

reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3,4-dihydro-3-[1-(1,1-dimethylethoxycarbonyl)-4-piperidinyl]-6-(4-methyl-1-piperazinyl)-2(1H)-quinazolinone | 2.561 mmol, 1.1 g | CC(C)(OC(=O)N1CCC(CC1)N1C(NC2=CC=C(C=C2C1)N1CCN(CC1)C)=O)C | C23H35N5O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3,4-dihydro-6-(4-methyl-1-piperazinyl)-3-(4-piperidinyl)-2(1H)-quinazolinone | CN1CCN(CC1)C=1C=C2CN(C(NC2=CC1)=O)C1CCNCC1 | C18H27N5O
